US09145414B2
Potassium carbonate (2.5 g) and (S)-tetrahydrofuran-3-yl methanesulfonate obtained in the above-described Step (1.01 g) were added to a solution of 4-nitro-1H-indole (980 mg) in DMF (10 mL), and the reaction solution was stirred at 100° C. for 24 hours. Water was added to the reaction solution, the reaction solution was extracted with ethyl acetate twice, and then washed successively with water and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate). THF (10 mL) was added to the resultant residue, 10% palladium on carbon (100 mg) was added, and the reaction solution was stirred under hydrogen atmosphere at room temperature for 14 hours. The insolubles were filtrated with celite, and the solvent was evaporated under vacuum. Thereafter, the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 1-((R)-tetrahydrofuran-3-yl)-1H-indol-4-amine as a white solid.

reactant | 4-nitro-1H-indole | 980 mg | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-((R)-tetrahydrofuran-3-yl)-1H-indol-4-amine | O1C[C@@H](CC1)N1C=CC=2C(=CC=CC12)N | C12H14N2O
